Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"There is absolutely nothing wrong with me"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ yo F student at ___ with no 
past medical or psychiatric history brought in by the counseling 
director at her school for approximately one week of 
increasingly
erratic and dangerous behavior/speech in the setting of 
increasing stress at school. On admission ___ reported 
feeling well overall and did not understand or agree with why 
she has been brought in but is aware that "people at my school 
are worried about me." 

Initial history obtained from the patient was limited due to 
tangential thought process with flight of ideas, abundance of 
information and distractibility. She explained that her life 
began to become more stressful/frustrating ten days prior to 
admission after she tried to set a plant on fire on top of
the roof of ___ building, reportedly at the request of a 
married couple who were on the roof with her. There was no fire 
but the attempt did produce a significant amount of smoke which
led to the fire department being called - ___ has since 
reprimanded her and attempted to ban her from on-campus living. 
She was able to convince them to let her stay during the week 
___
otherwise 1.5-2hr commute daily, making her already excessive 
workload more difficult to stay on top of. Then, earlier this 
week when she lost her glasses "in her room somewhere," making 
it even harder to accomplish her work at school and discern 
text/objects from far away - she explains that "I could see 
without my glasses but only at certain times." When asked she 
has not attempted to obtain another pair of glasses she partly 
blames her friends for not helping her but when asked why she 
feels this way she does not provide a specific answer. From 
collateral from her father as well as her friend ___, the 
intervention by the ___ to restrict her presence on campus 
dorms coincided with
more erratic behavior, pressured and rapid/nonsensical speech, 
and tangientiality. She did go home with her family to ___ 
the weekend of ___ and her dad reported an improvement during
this time, but as soon as she returned to school her symptoms 
rapidly returned. She also began seeing the school psychologist 
at this time and explains "at the time; I didn't know how to
articulate every event up until now. The psychologist helped me 
realize everything that was wrong with school and my personal 
life. Patient laughs and says she doesn't think anything is
___ Collateral from ___ reports that ___ felt 
she was helped by this psychologist as well. 

Prior to this episode ___ denies any history of depression 
or
sadness. She does endorse a racing mind, explains that she has 
in
the past week "stayed up all night bc that's the only time I get
to do whatever the hell I want" at least ___ times and then goes
to bed in the morning. Does report that she otherwise has been
sleeping normally but that "the number of hours I sleep all
depends on my needs." When asked about her mood, she states "I'm
content, not in a good mood or a bad mood." Denies emotional
lability. Cannot give a definitive answer to number of hours she
has been sleeping. Denies hallucinations.

PSYCHIATRIC ROS:
Depression - denies anhedonia, hopelessness, guilt, fatigue,
difficulty concentrating, changes in appetite. States her sleep
pattern is reversed.
Psychosis - denies delusions and hallucinations.
Mania - denies elevated mood or irritability, marked increases 
in
goal-directed behavior, racing thoughts, a decreased need for
sleep, or social/economic indiscretion
Anxiety - denies panic attacks, flashbacks, or agoraphobia.

COLLATERAL: 
___ Counseling Director, ___
(___):
States she met patient about 10 days ago after patient attempted
to light a plant on fire on the top of a building. Apparently,
patient has been following "lights changing colors" which led 
her
to a building. Patient reported she met an ___ family" who
encouraged her to try to light a plant on fire on the rooftop as
part of a "spiritual ceremony." Patient as subsequently banned
from the dorms and returned home to spend the weekend with her
parents. She returned to campus this past ___ and appeared to
be "intact" at this time. Dr. ___ endorsed plans 
to
try to get patient set up with CEDAR or PREP. During today's
meeting, however, patient appeared paranoid with ideas of
reference. She reportedly has been meeting homeless people in 
the
street and giving them her food. Patient has apparently lost
driver's license, student ID, and glasses in the last week. She
reports patient is a heavy MJ user but denies using at all 
during
this week.  

 
Past Medical History:
None

 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Denies

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
VS:  99.0, 162 / 98, 84, 18, 97% on RA
Gen: NAD, normal posture, well-nourished
HEENT: Sclera anicteric.
CV: Regular rate, +S1/ S2, no murmurs/rubs/gallops. 
Chest: Clear to auscultation bilaterally
Abdomen: Soft, non-tender, non-distended. 

Neuro:
Cranial Nerves: No facial asymmetry, no dysarthria, head turn 
and
shoulder shrug intact, pupils equal, tongue midline, visual
fields and EOM intact to navigating space and completing
paperwork.
Motor: Able to stand under her own strength, moves all
extremities against gravity
Coord: Fine directed movements intact without tremor or ataxia
Gait: Posture, stride, and arm-swing normal.

Neuropsychiatric Examination:
Appearance: Found in the exam room lying prone with her head
propped up in her bent arms, wearing hospital gown, hair
disheveled and fingernails with extensive dirt underneath.
Behavior: intense eye contact; pleasant/ebullient
Mood and Affect: "Fine" ; hyperthymic, labile, expansive
Thought process : Tangential. Mild flight of ideas. Does not
appear to be responding to internal stimuli.
Thought Content : No suicidal or homicidal/violent ideation. No
Auditory or Visual Hallucinations. No overt paranoia or
delusions.
Impulse control: fair
Insight: fair
Judgement: fair

Cognition:
She did not tolerate focused cognitive testing due to her
tangential, pressured thought process and speech.
Orientation: Full
Attention: Frankly inattentive due to tangential thought 
process,
flight of ideas
Memory: Seemed to have some memory of recent events
Fund of knowledge: Average
Speech: Increased rate, normal rhythm, volume, prosody. 
Difficult
to redirect. Pressured.
Language: Fluent ___ speaker without paraphasic errors

MSE on discharge:
Mental Status Exam:
Appearance: Well groomed
facial expression: Friendly, smiling on approach 
build: WNL 
behavior: engaging, cooperative, pleasant
Psychomotor: No abnormal involuntary movement 
speech: Normal rate, volume and tone
Mood/affect: Stable, much brighter
thought process/content: Reality oriented, goal directed, denies
SI/HI, denies AH/VH/paranoid delusions
Intellectual Functioning: Better concentration
Oriented: x4
Memory: Fair 
insight: Fair 
judgment: Fair

 
Pertinent Results:
___ 03:30PM   WBC-13.1* RBC-4.50 HGB-13.1 HCT-39.6 MCV-88 
MCH-29.1 MCHC-33.1 RDW-15.1 RDWSD-48.5*
___ 03:30PM   NEUTS-58.8 ___ MONOS-5.7 EOS-2.1 
BASOS-0.4 IM ___ AbsNeut-7.72* AbsLymp-4.29* AbsMono-0.75 
AbsEos-0.28 AbsBaso-0.05
___ 03:30PM   PLT COUNT-346
___ 03:30PM   GLUCOSE-86 UREA N-10 CREAT-0.5 SODIUM-140 
POTASSIUM-3.9 CHLORIDE-103 TOTAL CO2-24 ANION GAP-17
___ 06:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 03:30PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:30PM URINE  UCG-NEGATIVE
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  She was placed on q15 minute checks 
status on admission and remained on that level of observation 
throughout while being unit restricted.

2. PSYCHIATRIC:
#) Bipolar Disorder, acute manic episode
The patient denied a history of past manic of depressive 
episodes prior to this presentation as well as a history of past 
medication trials. On admission she displayed symptoms and 
behavior consistent with an acute manic episode including 
tangential thought process with flight of ideas, pressured 
speech, labile mood, and erratic behavior. Early in this 
admission she was started on Risperidone which was uptitrated to 
final dose of 4mg QHS. The patient responded well to this 
medication with gradual improvement in thought process, affect, 
and behavior. The patient's family was very involved in her care 
and attended several family meetings on the unit with the 
patient and the treatment team. They were in agreement with 
treatment with Risperidone and expressed concerns about the 
patient's behavior early in admission. Both the patient and her 
family reported improvement in the patient's behavior and 
thought process.

3. SUBSTANCE USE DISORDERS:
#) Cannabis use disorder: The patient was provided with 
psychoeducation regarding the relationship of marijuana use and 
bipolar disorder. She reported she is motivated to abstain from 
marijuana use after discharge as well as other illicit 
substances.

4. MEDICAL
#) The patient denied a history of medical illnesses prior to 
admission and denied acute medical complaints during this 
hospitalization.

5. PSYCHOSOCIAL

#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient often attended these groups that focused on teaching 
patients various coping skills.  The patient was pleasant and 
sociable in the milieu. She displayed poor boundary control 
early in admission which improved throughout her stay.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
As above, the patient's family actively participated in the 
patient's treatment planning and agreed with her medication 
regimen and discharge planning.

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Risperidone medication, and risks and benefits of 
possible alternatives, including not taking the medication, with 
this patient.   We discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment and discussing 
any  questions about medications with the treatment team, and 
the team answered the patient's questions.  The patient appeared 
able to understand and consented to begin the medication.

RISK ASSESSMENT

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon acute 
manic symptoms, erratic behavior, disorganized thought process, 
and impulsivity.  Their static factors noted at that time 
include history of substance abuse.  The modifiable risk factors 
including manic symptoms, erratic behavior, poor reality 
testing, no established outpatient providers, psychosis, 
recklessness, and active substance abuse were also addressed at 
that time with psychoeducation, medication management, and 
individual/group/milieu therapies. Finally, the patient is being 
discharged with many protective risk factors including strong 
social supports, sense of responsibility to family, future 
oriented view point, lack of suicidal ideation, and 
establishment with outpatient providers.  Overall, based on the 
totality of our assessment at this time, the patient is not at 
an acutely elevated risk of self-harm nor danger to others. 

Our Prognosis of this patient is guarded.

 
Medications on Admission:
This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Benztropine Mesylate 1 mg PO QHS 
RX *benztropine 1 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*1 
2.  Fluticasone Propionate NASAL 1 SPRY NU BID 
RX *fluticasone 50 mcg/actuation 1 twice a day Disp #*1 Spray 
Refills:*0 
3.  RisperiDONE 4 mg PO QHS 
RX *risperidone [Risperdal] 4 mg 1 tablet(s) by mouth at bedtime 
Disp #*14 Tablet Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar disorder, acute manic episode

 
Discharge Condition:
Mental status: Clear and coherent
Level of Consciousness: Alert and Interactive
Activity status: Ambulatory

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___